US07772226B2
(b) 2-Chloro-5-methyl-1-trityl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one
220 ml of lithium hexamethyldisilazide (1.0 M tetrahydrofuran solution) was added to a 4-L tetrahydrofuran solution of 68.3 g of 5-methyl-1-trityl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one at −75° C. under a nitrogen atmosphere, and the mixture was stirred at −75° C. for 1 hour. Then, 200 ml of a tetrahydrofuran solution of 82.3 g of hexachloroethane was added to the solution. The mixture was allowed to warm to −20° C. 5 L of 5% aqueous ammonium chloride was added, and the mixture was extracted with 4 L of ethyl acetate. The organic layer was washed successively with 5 L of water and 5 L of a saturated sodium chloride solution. The solution was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was suspended in 150 ml of t-butyl methyl ether, and then collected by filtration. The solid was washed twice with 100 ml of t-butyl methyl ether to give 69.7 g of the title compound.

reactant | lithium hexamethyldisilazide | 1.0 M, 220 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 5-methyl-1-trityl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 68.3 g | CN1N=CC2=C(C1=O)N=CN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H20N4O
reactant | hexachloroethane | 82.3 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | ammonium chloride | 5 L | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Chloro-5-methyl-1-trityl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 69.7 g | ClC1=NC2=C(C=NN(C2=O)C)N1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H19ClN4O
